US06169107A
The reaction was carried out in a manner similar to Reference Example 5 except for using 5.00 g (28.5 mmol) of methyl 2-indolecarboxylate, 1.26 g (31.4 mmol) of 60% sodium hydroxide, 12.3 g (43.2 mmol) of tert-butyl N-(3-iodopropyl)carbamate (prepared from 3-iodopropyl-amine and di-tert-butyl dicarbonate) and 60 ml of dimethylformamide. Thus, 2.54 g (27%) of methyl 1-(3-tert-butoxycarbonylaminopropyl)-2-indolecarboxylate was obtained.

reactant | methyl 2-indolecarboxylate | 28.5 mmol, 5.00 g | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | sodium hydroxide | 31.4 mmol, 1.26 g | [OH-].[Na+]
reactant | tert-butyl N-(3-iodopropyl)carbamate | 43.2 mmol, 12.3 g | ICCCNC(OC(C)(C)C)=O | C8H16INO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | methyl 1-(3-tert-butoxycarbonylaminopropyl)-2-indolecarboxylate | 2.54 g, 27% | C(C)(C)(C)OC(=O)NCCCN1C(=CC2=CC=CC=C12)C(=O)OC | C18H24N2O4
